// characterization schmitt-trigger 'st1' in GPDK 180nm

simulator lang=spectre
global 0

include "nmos1.scs" section=nom
include "pmos1.scs" section=nom

parameters T2=100p cl=100f T1=1 vdd=1.8                     \
           Ln=0.18                 Lp=0.18                  \
           Wn0=4.0 Wn1=6.0 Wn2=2.0 Wp0=8.0 Wp1=12.0 Wp2=4.0

subckt st1 I O VDD VSS
    MN2 (VDD O X   VSS) nmos1 m=1 w=Wn2 l=Ln 
    MN1 (O   I X   VSS) nmos1 m=1 w=Wn1 l=Ln 
    MN0 (X   I VSS VSS) nmos1 m=1 w=Wn0 l=Ln 
    MP2 (VSS O Y   VDD) pmos1 m=1 w=Wp2 l=Lp 
    MP0 (Y   I VDD VDD) pmos1 m=1 w=Wp0 l=Lp 
    MP1 (O   I Y   VDD) pmos1 m=1 w=Wp1 l=Lp 
ends st1

I0 (I O VDD 0) st1
V0 (I 0) vsource type=pwl wave=[ 0 0 T1 vdd (2*T1) 0 (3*T1) 0 (3*T1+T2) \
        vdd (4*T1+T2) vdd (4*T1+2*T2) 0 (5*T1+2*T2) 0 ]
V1 (VDD 0) vsource dc=vdd type=dc
C0 (O 0) capacitor c=cl
ic O=vdd

save I O

simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 \
                         gmin=0 rforce=1 temp=27 tnom=27 scalem=1.0 scale=1u

tran tran stop=5*T1+2*T2 errpreset=conservative
